US08563577B2
2-(4-Fluorophenylamino)-2-phenylacetic acid hydrochloride (I38) (2.00 g, 8.15 mmol) was dissolved in THF (25 ml), and (R)-quinuclidin-3-ol (1.14 g, 8.97 mmol) was added. To the resulting solution, HOBt (1.10 g, 8.15 mmol) and DCC (0.841 g, 4.08 mmol) were added, and the mixture was stirred at room temperature for three days. Then a second portion of HOBt (0.55 g, 4.08 mmol), DCC (0.84 g, 4.08 mmol) and (R)-quinuclidin-3-ol (0.52 g, 4.08 mmol) were added, and the mixture was stirred at room temperature overnight. THF was removed under vacuum, and the residue was treated with H2O and extracted twice with EtOAc. The combined organic phases were washed with saturated Na2CO3 and dried over Na2SO4, filtered and the solvent was evaporated in vacuo. The crude was purified by flash chromatography (EtOAc/MeOH=9/1 to 75/25) to afford (R)-quinuclidin-3-yl 2-(4-fluorophenylamino)-2-phenylacetate (1.1 g, 3.10 mmol, 38.1% yield, mixture of diasteromers).

reactant | 2-(4-Fluorophenylamino)-2-phenylacetic acid hydrochloride | 8.15 mmol, 2.00 g | Cl.FC1=CC=C(C=C1)NC(C(=O)O)C1=CC=CC=C1
reactant | (R)-quinuclidin-3-ol | 8.97 mmol, 1.14 g | N12C[C@@H](C(CC1)CC2)O | C7H13NO
reactant | HOBt | 8.15 mmol, 1.10 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 4.08 mmol, 0.841 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBt | 4.08 mmol, 0.55 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 4.08 mmol, 0.84 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | (R)-quinuclidin-3-ol | 4.08 mmol, 0.52 g | N12C[C@@H](C(CC1)CC2)O | C7H13NO
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | (R)-quinuclidin-3-yl 2-(4-fluorophenylamino)-2-phenylacetate | 3.10 mmol, 1.1 g, 38.1% yield | FC1=CC=C(C=C1)NC(C(=O)O[C@H]1CN2CCC1CC2)C2=CC=CC=C2 | C21H23FN2O2
